US05753664
2-[4-(4-Chlorobenzoyl)benzyl]-3,5-dimethyl-2H-pyrazolo [3,4-d]pyridazin-4(5H)-one (B)
In DMF (2 ml) was dissolved 3,5-dimethyl-1H-pyrazolo [3,4-d]pyridazin-4(5H)-one (94 mg) followed by addition of 4-(4-chlorobenzoyl)benzyl bromide (279 mg) and potassium carbonate (124 mg), and the mixture was stirred at room temperature for 15 hours. This reaction mixture was extracted with ethyl acetate and the organic layer was serially washed with water and saturated aqueous NaCl solution, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (n-hexane: ethyl acetate=1:4), washed with the following solvent, and dried. As the washing solvent, n-hexanediethyl ether was used for 1-[4-(4-chlorobenzoyl) benzyl]-3,5-dimethyl-1H-pyrazolo[3,4-d]pyridazin-4(5H)-one and diethyl ether for 2-[4-(4-chlorobenzoyl)benzyl]-3,5-dimethyl-2H-pyrazolo [3,4-d]pyridazin-4(5H)-one.

reactant | 3,5-dimethyl-1H-pyrazolo [3,4-d]pyridazin-4(5H)-one | 94 mg | CC1=NNC=2C=NN(C(C21)=O)C | C7H8N4O
reactant | 4-(4-chlorobenzoyl)benzyl bromide | 279 mg | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
reactant | potassium carbonate | 124 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-[4-(4-Chlorobenzoyl)benzyl]-3,5-dimethyl-2H-pyrazolo [3,4-d]pyridazin-4(5H)-one | ClC1=CC=C(C(=O)C2=CC=C(CN3N=C4C=NN(C(C4=C3C)=O)C)C=C2)C=C1 | C21H17ClN4O2
